US06127381
The teabag containing glycine on resin was placed in a 20 mL bottle and treated with a solution of benzaldehyde (0.508 mL, 5 mmoles) and anhydrous trimethylorthoformate (1.094 mL, 10 mmoles) in anhydrous DMF (9 mL). After shaking for 3 hours, the packet was washed with anhydrous DMF (3×8 mL). A solution of homophthalic anhydride (801 mg, 5 mmoles) and triethylamine (0.044 mL, 0.3 mmoles) was prepared in DMF (10 mL) and added to the teabag. After shaking at room temperature for 16 hours the packet was washed with DMF (6×30 mL) and DCM (4×30 mL) and dried at room temperature.

reactant | glycine | NCC(=O)O | C2H5NO2
reactant | benzaldehyde | 5 mmoles, 0.508 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | trimethylorthoformate | 10 mmoles, 1.094 mL | COC(OC)OC | C4H10O3
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | triethylamine | 0.3 mmoles, 0.044 mL | C(C)N(CC)CC | C6H15N
product | homophthalic anhydride | 5 mmoles, 801 mg | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
